US03983246
Into a solution of 6.7 g of 4-isopropylbenzohydroximoyl chloride in 175 ml of benzene was added in one portion 5.2 g of triethylamine. To this solution was added dropwise during 15 minutes (mildly exothermic reaction) 4.0 g of methanesulfonyl chloride. The mixture was stirred for 30 minutes and filtered. The filtrate was concentrated and the residue recrystallized twice from ethanol to give 8.1 g of N-(methanesulfonyloxy)-4-isopropylbenzimidoyl chloride, m.p. 79.5°-82°. The ir spectrum was consistent with the assigned structure.

reactant | 4-isopropylbenzohydroximoyl chloride | 6.7 g | C(C)(C)C1=CC=C(C(=NO)Cl)C=C1 | C10H12ClNO
reactant | methanesulfonyl chloride | 4.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 175 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 5.2 g | C(C)N(CC)CC | C6H15N
product | N-(methanesulfonyloxy)-4-isopropylbenzimidoyl chloride | 8.1 g | CS(=O)(=O)ON=C(C1=CC=C(C=C1)C(C)C)Cl | C11H14ClNO3S
